US04360674
2-[2-[4-(4-chlorophenyl)piperazinyl]ethyl]-1-methyl-1H-naphth[1,2-d]imidazole
6.5 g (0.024 mole) of 1-(4-chlorophenyl)-piperazine dihydrochloride and 8.43 cc (0.06 mole) of triethylamine are added to a solution of 2.93 g (0.012 mole) of 2-(2-chloroethyl-1-methyl-1H-naphth[1,2-d]imidazole in 100 cc of ethanol. The reaction mixture is then heated at reflux temperature and maintained under an argon atmosphere for 23 hours. By evaporating the solvent, grinding the residue with water and filtering, a raw product is obtained, which is recrystallized from methylisopropylketone, yielding 4.36 g (90% yield) of pure compound. M.p. 213°-15° C.

reactant | 1-(4-chlorophenyl)-piperazine dihydrochloride | 0.024 mole, 6.5 g | Cl.Cl.ClC1=CC=C(C=C1)N1CCNCC1
reactant | triethylamine | 0.06 mole, 8.43 cc | C(C)N(CC)CC | C6H15N
reactant | 2-chloroethyl-1-methyl-1H-naphth[1,2-d]imidazole | ClCCC1=NC2=C(N1C)C1=CC=CC=C1C=C2 | C14H13ClN2
solvent | ethanol | 100 cc | C(C)O | C2H6O
product | 2-[2-[4-(4-chlorophenyl)piperazinyl]ethyl]-1-methyl-1H-naphth[1,2-d]imidazole | 4.36 g, 90% yield | ClC1=CC=C(C=C1)N1CCN(CC1)CCC1=NC2=C(N1C)C1=CC=CC=C1C=C2 | C24H25ClN4
